US08314088B2
8-benzyl-3-[(3R)-3-methylmorpholin-4-yl]-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine
Potassium tert-butoxide (0.59 g) was added to a solution of 2-[benzyl({3-chloro-5-[(3R)-3-methylmorpholin-4-yl]pyrazin-2-yl}methyl)amino]ethanol (1.65 g) in DMF (50 mL) at 0° C., and the mixture was stirred for 1 hr. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over magnesium sulfate, and concentrated. The residue was purified by basic silica gel column chromatography (solvent gradient: 5→50% ethyl acetate/hexane) to give the title compound (1.32 g, 89%) as a pale-yellow solid.

reactant | Potassium tert-butoxide | 0.59 g | CC(C)([O-])C.[K+]
reactant | 2-[benzyl({3-chloro-5-[(3R)-3-methylmorpholin-4-yl]pyrazin-2-yl}methyl)amino]ethanol | 1.65 g | C(C1=CC=CC=C1)N(CCO)CC1=NC=C(N=C1Cl)N1[C@@H](COCC1)C | C19H25ClN4O2
reactant | Water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 8-benzyl-3-[(3R)-3-methylmorpholin-4-yl]-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 1.32 g, 89% | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)N2[C@@H](COCC2)C | C19H24N4O2
